US06900215B2
3-Bromobenzonitrile and 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane were coupled using the procedure described in Example 1 to afford 2′-fluoro-5′-nitrobiphenyl-3-carbonitrile as a brown solid: δH (360 MHz, DMSO) 7.33-7.40 (2H, m), 7.46-7.55 (2H, m), 7.61 (1H, ddd, J 8, 8 and 2), 7.96-8.01 (1H, m), 8.61 (1H, dd, J 5 and 2), 8.77 (1H, s).

reactant | 3-Bromobenzonitrile | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 2′-fluoro-5′-nitrobiphenyl-3-carbonitrile | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC(=CC=C1)C#N | C13H7FN2O2
